US07915281B2
Under a nitrogen atmosphere, a solution of 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-4-amine (0.9923 g, 2.377 mmol) in 1,2-dichloroethane (55 mL) was cooled to about 0° C., and boron tribromide (5.9 mL of a 1 M solution in dichloromethane) was added dropwise. After the reaction was stirred cold for 30 minutes, it was heated at 50° C. for six hours. An analysis by HPLC indicated the reaction was incomplete, and the reaction was again cooled to about 0° C., and additional boron tribromide (1.5 mL) was added dropwise. After the reaction was stirred cold for ten minutes, it was heated at 50° C. for 16 hours. Methanol (30 mL) was added, and the reaction mixture was allowed to cool to room temperature. After 16 hours, the precipitate from the reaction was isolated by filtration and washed sequentially with aqueous potassium hydroxide (30 mL of 1 N), methanol (15 mL), and diethyl ether (15 mL). The solid was then triturated with boiling acetonitrile and isolated by hot filtration to provide 0.161 g of (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-2-yl)methanol as a white powder, mp 262.0-263.0° C.

reactant | 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-4-amine | 2.377 mmol, 0.9923 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C23H20FN5O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1.5 mL | B(Br)(Br)Br | BBr3
reactant | Methanol | 30 mL | CO | CH4O
solvent | 1,2-dichloroethane | 55 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-2-yl)methanol | 0.161 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)CO | C21H16FN5O2
